US04342771
5-Hydroxy-5-(1-phenyl-2-pyrrolyl)-2,4,6-(1H,3H,5H)pyrimidinetrione
1-Phenylpyrrole (1.4 g., 0.01 mole), alloxan hydrate (1.6 g., 0.01 mole) and 50 ml. of ethanol were combined and refluxed for 15 minutes. No reaction was noted by tlc. 1 N Hydrochloric acid (10 ml., 0.01 mole) was added and the acidified mixture refluxed for 15 minutes. Incomplete reaction was noted by tlc. A second portion of alloxan hydrate (1.6 g., 0.01 mole) was added and the mixture refluxed another 15 minutes, cooled and evaporated to dryness. Trituration of the residue with water gave title product [2.3 g.; m/e 285; m.p. 232°-234° C. (dec); Rf 0.3 (1:1 ethyl acetate:hexane)].

reactant | 1-Phenylpyrrole | 0.01 mole, 1.4 g | C1(=CC=CC=C1)N1C=CC=C1 | C10H9N
reactant | alloxan hydrate | 0.01 mole, 1.6 g | O.N1C(=O)NC(=O)C(=O)C1=O
reactant | Hydrochloric acid | 0.01 mole, 1 N, 10 ml | Cl | ClH
reactant | alloxan hydrate | 0.01 mole, 1.6 g | O.N1C(=O)NC(=O)C(=O)C1=O
solvent | ethanol | C(C)O | C2H6O
product | 5-Hydroxy-5-(1-phenyl-2-pyrrolyl)-2,4,6-(1H,3H,5H)pyrimidinetrione | 2.3 g | OC1(C(NC(NC1=O)=O)=O)C=1N(C=CC1)C1=CC=CC=C1 | C14H11N3O4
